US06569851B1
Step C: Synthesis of 3-[(L-Alaninyl)amino]-2,3-dihydro-1-methyl-5-(2-pyridyl)-1H-1,4-benzodiazepin-2-one
A solution of 3-[(N-tert-butoxycarbonyl-L-alaninyl)amino]-2,3-dihydro-1-methyl-5-(2-pyridyl)-1H-1,4-benzodiazepin-2-one (3.42 g, 7.82 mmol) in CH2Cl2 (90 mL) was cooled in an ice bath and treated with TFA (13.2 mL, 172 mmol). The cold bath was removed and the solution stirred at room temperature for four hours. The reaction mixture was washed with 1 M aq. K2CO3 and the aqueous back-extracted with CH2Cl2. The combined extracts were washed with H2O, dried (MgSO4) and concentrated to obtain 1.75 g (66% yield) of the title compound as an off-white foam. MS (IS+) 338 (m/e).

reactant | 3-[(N-tert-butoxycarbonyl-L-alaninyl)amino]-2,3-dihydro-1-methyl-5-(2-pyridyl)-1H-1,4-benzodiazepin-2-one | 7.82 mmol, 3.42 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=NC=CC=C1)C=CC=C2)C)=O | C23H27N5O4
reactant | TFA | 172 mmol, 13.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | 3-[(L-Alaninyl)amino]-2,3-dihydro-1-methyl-5-(2-pyridyl)-1H-1,4-benzodiazepin-2-one | 1.75 g, 66% yield | N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=NC=CC=C1)C=CC=C2)C)=O | C18H19N5O2
